US06281227B1
F. 7-Methoxynaphthalene-2-sulfonic acid [1-(4-chloro-quinazolin-6-ylmethyl)-2-oxopyrrolidin-3-(S)-yl]-methyl amide
To a solution of 7-methoxynaphthalene-2-sulfonic acid methyl-(2-oxopyrrolidin-3-(S)-yl)-amide (0.35 g, 1.04 mmol) in THF (7 mL) at 0° C. is added LiN(SiMe3)2 (1 mL, 1 mmol, 1 M solution in THF). The solution is stirred at 0° C. for 40 minutes. After this time, 6-bromomethyl-4-chloro-quinazoline (0.24 g, 0.94 mmol) is added. The resulting solution is stirred for 4 hours. The reaction is quenched by the addition of a saturated NH4Cl solution. The solution is diluted with EtOAc and water. The layers are separated. The organic layer is washed with water and brine. The organic layer is dried over MgSO4, filtered and concentrated. The crude product is purified by column chromatography eluting with a gradient of 20% EtOAc/CH2Cl2 to 40% EtOAc/CH2Cl2 to give the title compound (0.25 g, 0.49 mmol) as a white solid.

reactant | 7-methoxynaphthalene-2-sulfonic acid methyl-(2-oxopyrrolidin-3-(S)-yl)-amide | 1.04 mmol, 0.35 g | CN(S(=O)(=O)C1=CC2=CC(=CC=C2C=C1)OC)[C@@H]1C(NCC1)=O | C16H18N2O4S
reactant | LiN(SiMe3)2 | 1 mmol, 1 M, 1 mL | [Li]N([Si](C)(C)C)[Si](C)(C)C
reactant | 6-bromomethyl-4-chloro-quinazoline | 0.94 mmol, 0.24 g | BrCC=1C=C2C(=NC=NC2=CC1)Cl | C9H6BrClN2
solvent | THF | 7 mL | C1CCOC1 | C4H8O
product | 7-Methoxynaphthalene-2-sulfonic acid [1-(4-chloro-quinazolin-6-ylmethyl)-2-oxopyrrolidin-3-(S)-yl]-methyl amide | 0.49 mmol, 0.25 g | ClC1=NC=NC2=CC=C(C=C12)CN1C([C@H](CC1)N(S(=O)(=O)C1=CC2=CC(=CC=C2C=C1)OC)C)=O | C25H23ClN4O4S
